US05872136
Step A: 2-Amino-3-Phenyl-6-methylpyridine
A solution of 3-phenyl-6-methyl pyridine (0.815 g, 4.82 mmol), and sodium amide (752 mg, 19.3 mmol) in diethylaniline (10 mL) was heated at 180° C. for 72 hours. The reaction was cooled and quenched with ice (100 g), and the mixture extracted with EtOAc. The organic extract was washed with brine (50 mL), dried (MgSO4), silica gel (100 g) was added and the solvent evaporated in vacuo.

reactant | 3-phenyl-6-methyl pyridine | 4.82 mmol, 0.815 g | C1(=CC=CC=C1)C=1C=NC(=CC1)C | C12H11N
reactant | sodium amide | 19.3 mmol, 752 mg | [NH2-].[Na+]
solvent | diethylaniline | 10 mL | CCN(CC)C=1C=CC=CC1 | C10H15N
product | 2-Amino-3-Phenyl-6-methylpyridine | NC1=NC(=CC=C1C1=CC=CC=C1)C | C12H12N2
